US04847305
4,6-bis(1,1-dimethylethyl)-2-(methylthio)-1,3-benzenediol
A mixture of 4,6-di-t-butylresorcinol (25.0 g, 112 mmole) and ammonium thiocyanate (18.0 g, 235 mmole) in methanol (100 ml) was stirred for 24 hours. The mixture was cooled to 0° and chlorine gas was bubbled through the solution for one hour. After the mixture was stirred for an additional hour at 0°, ammonia gas was bubbled through for one hour. A solid was removed by filtration and the filrate was concentrated in vacuo. Chromatography on silica gel and recrystallization from hexane gave the title compound.

reactant | 4,6-di-t-butylresorcinol | 112 mmole, 25.0 g | C(C)(C)(C)C1=C(C=C(O)C(=C1)C(C)(C)C)O | C14H22O2
reactant | ammonium thiocyanate | 235 mmole, 18.0 g | [S-]C#N.[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | 4,6-bis(1,1-dimethylethyl)-2-(methylthio)-1,3-benzenediol | CC(C)(C)C1=C(C(=C(C(=C1)C(C)(C)C)O)SC)O | C15H24O2S
